US07384952B2
To a solution of methyl 4-(3-tosyloxypropyl)benzoate (500 mg) in dimethylformamide (3 mL) is added 2M dimethylamine solution in tetrahydrofuran (2.2 mL) and the mixture is stirred at 50° C. for 15 hours. The reaction mixture is diluted with ethyl acetate, washed with a saturated sodium hydrogencarbonate solution and concentrated in vacuo. The residue is purified by column chromatography on silica gel (Solvent; chloroform:methanol=100:0→90:10) to give methyl 4-[3-(dimethylamino)-propyl]benzoate (357 mg, yield; quantitative) as an oil. MS (APCI) m/z; 222 [M+H]+

reactant | methyl 4-(3-tosyloxypropyl)benzoate | 500 mg | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCC1=CC=C(C(=O)OC)C=C1 | C18H20O5S
reactant | dimethylamine | 2M | CNC | C2H7N
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 2.2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-[3-(dimethylamino)-propyl]benzoate | 357 mg | CN(CCCC1=CC=C(C(=O)OC)C=C1)C | C13H19NO2
